US05041460
4-[2-Chloro-5-[2-(N',N'-dimethylureido)ethyl]-1-methylindol-3-ylmethyl]-3-methoxy-N-(2-chlorophenylsulfonyl)benzamide
Using a similar procedure to that described in Example 2, part c, except starting from 4-[2-chloro-5-[2-(N',N'-dimethylureido)ethyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoic acid, and using 2-chlorophenylsulfonamide instead of 2-methylphenylsulfonamide, the title compound was obtained (94%) as a white solid: mp 204°-206° C.

reactant | 4-[2-chloro-5-[2-(N',N'-dimethylureido)ethyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoic acid | ClC=1N(C2=CC=C(C=C2C1CC1=C(C=C(C(=O)O)C=C1)OC)CCNC(=O)N(C)C)C | C23H26ClN3O4
reactant | 2-chlorophenylsulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
product | 4-[2-Chloro-5-[2-(N',N'-dimethylureido)ethyl]-1-methylindol-3-ylmethyl]-3-methoxy-N-(2-chlorophenylsulfonyl)benzamide | ClC=1N(C2=CC=C(C=C2C1CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)Cl)C=C1)OC)CCNC(=O)N(C)C)C | C29H30Cl2N4O5S
